US06794397B2
6-(2,2,2-Triflouroethoxy)-N-(4ethoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-(2,2,2-trifluoroethoxy)pyridine-3-carboxylic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 11.05 (s, 1H), 8.84-8.80 (m, 2H), 8.25-8.21 (m, 1H), 7.73 (d, J=3.0, 1H), 7.32-7.28 (m, 1H), 7.01 (d, J=8.7, 1H), 4.86 (q, J=8.4, 2H), 4.11 (q, J=6.9, 2H), 1.46 (t, J=6.9, 3H).

reactant | 6-(2,2,2-trifluoroethoxy)pyridine-3-carboxylic acid | FC(COC1=CC=C(C=N1)C(=O)O)(F)F | C8H6F3NO3
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 6-(2,2,2-Triflouroethoxy)-N-(4ethoxy-2-nitrophenyl)-3-pyridinecarboxamide | FC(COC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-])(F)F | C16H14F3N3O5
